US06004948
(e) 3-(4-Chlorophenylthio)-4-methylsulphonyl-amino-benzenesulphonamide
4-Amino-3-(4-chlorophenylthio)-benzenesulphonamide (0.43 g; 1.37 mmol) was dissolved in pyridine (10 ml) and at 0° C. methanesulphonic acid chloride (4.7 g; 41.0 mmol) was added dropwise. The solution came up to ambient temperature overnight, was then poured onto water and extracted with CH2Cl2. The solvent was evaporated off and the residue was stirred in dioxan (10 ml)/2N aqueous NaOH (10 ml). After acidifying with 2N HC1, the mixture was extracted with ethyl acetate, dried over MgSO4 and evaporated down. The residue was recrystallised from CH2Cl2. Yield: 0.28 g=52% 13C (100 MHz, DMSO-d6) δ 141.50, 140.23, 133.03, 132.82, 132.73, 129.79, 129.78, 129.46, 126.16, 123.90, 41.03

reactant | 4-Amino-3-(4-chlorophenylthio)-benzenesulphonamide | 1.37 mmol, 0.43 g | NC1=C(C=C(C=C1)S(=O)(=O)N)SC1=CC=C(C=C1)Cl | C12H11ClN2O2S2
reactant | methanesulphonic acid chloride | 41.0 mmol, 4.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chlorophenylthio)-4-methylsulphonyl-amino-benzenesulphonamide | ClC1=CC=C(C=C1)SC=1C(=C(C=CC1S(=O)(=O)C)S(=O)(=O)N)N | C13H13ClN2O4S3
